US07321050B2
Experiment 24. 2-(3,5-Difluorophenyl)-1-(3,5-dimethoxy-4-i-propylphenyl)ethene (30B).
This material was prepared from (3,5-dimethoxy-4-i-propylbenzyl)phosphonate and 3,5-difluorobenzaldehyde in 27% yield in the same way as described in example 21. 1HNMR (CDCl3, ppm): δ 1.32 (d, J=7.0 Hz, 6H), 3.66 (qint., J=7.0 Hz, 1H), 3.90 (s, 6H), 6.72 (s, 2H), 6.8-7.2 (m, 5H).

reactant | (3,5-dimethoxy-4-i-propylbenzyl)phosphonate | COC=1C=C(CP([O-])([O-])=O)C=C(C1C(C)C)OC
reactant | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
product | 2-(3,5-Difluorophenyl)-1-(3,5-dimethoxy-4-i-propylphenyl)ethene | 27% yield | FC=1C=C(C=C(C1)F)C=CC1=CC(=C(C(=C1)OC)C(C)C)OC | C19H20F2O2
